US07541372B2
4-{4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-thiomorpholine 1,1-dioxide
To a suspension of 4-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-thiomorpholine (239 mg, 0.59 mmol) in methanol (2 mL) and water (0.5 mL) was added oxone (545 mg, 0.89 mmol) and stirred for 18 h at 60° C. and for 4 h at 50° C. After the reaction mixture was cooled to ambient temperature further oxone (331 mg, 0.54 mmol) was added and stirred for 18 h at 50° C. It was cooled to ambient temperature and aqueous sodium bisulfite (38%, 1.5 mL) was then added and stirred for 15 min. After the addition of aqueous sodium carbonate (saturated, 10 mL) the mixture was extracted with ethyl acetate (20 mL) and washed with aqueous sodium carbonate (saturated, 20 mL). Drying over sodium sulfate, concentration and purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane:methanol=40:50:10:0 to 0:90:0:10) afforded the title compound (75 mg, 29%) as a white solid. MS: m/e=437.2 [M+H]+.

reactant | 4-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-thiomorpholine | 0.59 mmol, 239 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=CC=C(C=C1)N1CCSCC1 | C22H20N4O2S
reactant | oxone | 0.89 mmol, 545 mg | OOS(=O)[O-].[K+]
reactant | oxone | 0.54 mmol, 331 mg | OOS(=O)[O-].[K+]
reactant | sodium bisulfite | 1.5 mL | S([O-])(O)=O.[Na+]
reactant | sodium carbonate | 10 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 4-{4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-thiomorpholine 1,1-dioxide | 75 mg, 29% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=CC=C(C=C1)N1CCS(CC1)(=O)=O | C22H20N4O4S
